US04082892
The 2-propyl-4-methyl-4-hydroxymethyl-2-oxazoline is reacted with propionic acid in a 1:1 molar ratio following the method of Purcell to form 2-propyl-4-methyl-4-propionyloxymethyl-2-oxazoline.

reactant | 2-propyl-4-methyl-4-hydroxymethyl-2-oxazoline | C(CC)C=1OCC(N1)(CO)C | C8H15NO2
reactant | propionic acid | C(CC)(=O)O | C3H6O2
product | 2-propyl-4-methyl-4-propionyloxymethyl-2-oxazoline | C(CC)C=1OCC(N1)(COC(CC)=O)C | C11H19NO3
